US07074800B1
(5S)-5-(p-Toluenesulphonylmethyl)-2-pyrrolidinone (0.8 g, 3 mmol) was dissolved in dry THF and cooled to −70° C. Lithium diisopropylamide was slowly added and the reaction stirred for 20 minutes before addition of methyl iodide (2 ml, excess). The reaction was allowed to warm to ambient temperature for over 2 hours. The reaction was partitioned between ethyl acetate and water, the organic layer separated, dried over MgSO4, filtered, and evaporated in vacuo. The residue was purified by flash chromatography eluting from methylene chloride to 5% methanol/95% methylene chloride and the product evaporated to give (5S)-5-(p-toluenesulphonyl-methyl)-1-methyl-2-pyrrolidinone (340 mg, 40%) as a brown oil.

reactant | (5S)-5-(p-Toluenesulphonylmethyl)-2-pyrrolidinone | 3 mmol, 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)C[C@@H]1CCC(N1)=O)C | C12H15NO3S
reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 2 ml | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | (5S)-5-(p-toluenesulphonyl-methyl)-1-methyl-2-pyrrolidinone | 340 mg, 40% | C1(=CC=C(C=C1)S(=O)(=O)C[C@@H]1CCC(N1C)=O)C | C13H17NO3S
